US07354942B2
To a solution of ethyl 3-(bromomethyl)-5-(1-cyanocyclopentyl)benzoate (0.15 g, 0.45 mmol) and 2-tert-butoxycarbonylamino-2-methyl-3-phenylpropan-1-ol (0.21 g, 0.79 mmol in 8 mL dichloroethane was added 2,6-di-tert-butylpyridine, polymer bound (0.72 g, 1.3 mmol) and silver trifluoromethanesulfonate (0.20 g, 0.79 mmol). The reaction was stirred at rt overnight and filtered. Concentration and flash chromatography (silica gel, 0-25% EtOAc/hexanes) gave ethyl 3-((2-tert-butoxycarbonylamino-2-methyl-3-phenylpropoxy)methyl)-5-(1-cyanocyclopentyl)benzoate. 1H NMR (400 MHz, CDCl3) δ 8.03 (app d, J=1.5 Hz, 1H), 7.96 (s, 1H), 7.67 (s, 1H), 7.28-7.22 (m, 3H), 7.17 (m, 2H), 4.60 (s, 2H), 4.57 (s, 1H), 4.40 (q, J=7.1 Hz, 2H), 3.55 (d, J=8.9 Hz, 1H), 3.45 (d, J=9.0 Hz, 1H), 3.14 (d, J=13.3 Hz, 1H), 2.95 (d, J=13.2 Hz, 1H), 2.52 (m, 2H), 2.13-1.96 (m, 6H), 1.46 (s, 9H), 1.41 (t, J=7.1 Hz, 3H), 1.28 (s, 3H).

reactant | ethyl 3-(bromomethyl)-5-(1-cyanocyclopentyl)benzoate | 0.45 mmol, 0.15 g | BrCC=1C=C(C(=O)OCC)C=C(C1)C1(CCCC1)C#N | C16H18BrNO2
reactant | 2-tert-butoxycarbonylamino-2-methyl-3-phenylpropan-1-ol | C(C)(C)(C)OC(=O)NC(CO)(CC1=CC=CC=C1)C | C15H23NO3
reactant | 2,6-di-tert-butylpyridine | C(C)(C)(C)C1=NC(=CC=C1)C(C)(C)C | C13H21N
solvent | dichloroethane | 8 mL | ClC(C)Cl | C2H4Cl2
catalyst | silver trifluoromethanesulfonate | 0.79 mmol, 0.20 g | FC(S(=O)(=O)[O-])(F)F.[Ag+]
product | ethyl 3-((2-tert-butoxycarbonylamino-2-methyl-3-phenylpropoxy)methyl)-5-(1-cyanocyclopentyl)benzoate | C(C)(C)(C)OC(=O)NC(COCC=1C=C(C(=O)OCC)C=C(C1)C1(CCCC1)C#N)(CC1=CC=CC=C1)C | C31H40N2O5
